US04138489
One heats to 80° C a solution consisting of 140 mls of water, 60 mls of acetic acid and 40 mls of normal hydrochloric acid. One then adds 5.52 g of p-methoxyphenylhydrazine followed by 9.7 g of 1-(4,4-diethoxybutyl)-2-piperidone. The solution is maintained at 80° C for 2 hours. It is then cooled to 5° C and then one adds 200 mls of water and 150 mls of methylene chloride. After decanting, the aqueous phase is extracted again with 200 mls of methylene chloride. The organic phases are combined, washed with 100 mls of water and then with a saturated solution of sodium bicarbonate, dried over sodium sulphate, filtered over bleaching charcoal and then evaporated to dryness under reduced pressure (20 mm of mercury). The residue (10 g ) is chromatographed over 75 g of silica gel contained in a column with a diameter of 2.7 cm and eluting with ethyl acetate, collecting fractions of 120 mls. Fractions 4 to 12 are evaporated. In this way one obtains 7.5 g of 1[1(5-methoxy-3-indolyl)-ethyl]2-piperidone melting at 150° C. 1-(4,4-diethoxy-butyl)-2-piperidone may be prepared in the following manner:

reactant | hydrochloric acid | 40 mls | Cl | ClH
reactant | p-methoxyphenylhydrazine | 5.52 g | COC1=CC=C(C=C1)NN | C7H10N2O
reactant | 1-(4,4-diethoxybutyl)-2-piperidone | 9.7 g | C(C)OC(CCCN1C(CCCC1)=O)OCC | C13H25NO3
reactant | methylene chloride | 150 mls | C(Cl)Cl | CH2Cl2
solvent | water | 200 mls | O | H2O
solvent | acetic acid | 60 mls | C(C)(=O)O | C2H4O2
solvent | water | 140 mls | O | H2O
product | 1[1(5-methoxy-3-indolyl)-ethyl]2-piperidone | 7.5 g | COC=1C=C2C(=CNC2=CC1)C(C)N1C(CCCC1)=O | C16H20N2O2
